US05124327
Step B: 3-Phenylthioindole-2-carboxaldehyde
N-Methoxy-N-methyl-3-phenylthioindole-2-carboxamide (1.57 g, 5.26 mmol) was dissolved in tetrahydrofuran (150 mL) and cooled to 0° C. under nitrogen. A solution of lithium aluminum hydride in tetrahydrofuran (5.76 mL, 1M) was added slowly via syringe and the reaction stirred a total of 1.5 hours. Ethyl acetate (30 mL) was added, followed by saturated sodium potassium tartrate solution. The layers were separated and the organic phase washed with saturated brine and dried over magnesium sulfate. Filtration and evaporation of solvent gave the title compound as a yellow solid.

reactant | N-Methoxy-N-methyl-3-phenylthioindole-2-carboxamide | 5.26 mmol, 1.57 g | CON(C(=S)C=1NC2=CC=CC=C2C1C1=CC=CC=C1)C | C17H16N2OS
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
reactant | sodium potassium tartrate | C(=O)([O-])C(O)C(O)C(=O)[O-].[K+].[Na+]
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1M, 5.76 mL | O1CCCC1 | C4H8O
product | 3-Phenylthioindole-2-carboxaldehyde | C1(=CC=CC=C1)C1=C(NC2=CC=CC=C12)C=S | C15H11NS
